US07795288B2
(5-Bromo-thiazol-2-yl)-(4-methoxy-phenyl)-amine
A 1 M solution of Br2 in DMF (12.9 mL, 13.2 mmol) is added dropwise to a solution of (4-methoxy-phenyl)-thiazol-2-yl-amine (2.72 g, 13.2 mmol) in DMF (40 mL), under an argon atmosphere. During the addition, the internal temperature of the reaction mixture is kept below 26° C. The mixture is stirred for 20 min at 25° C. and concentrated in vacuo. Purification of the crude product by silica gel (250 g) column chromatography (CH2Cl2/MeOH, 99/1) affords the title compound: ES-MS: 287.0 [M+H]+; single peak at tR=7.99 min (System 1); Rf=0.47 (CH2Cl2/MeOH, 98/2).

reactant | Br2 | BrBr | Br2
reactant | (4-methoxy-phenyl)-thiazol-2-yl-amine | 13.2 mmol, 2.72 g | COC1=CC=C(C=C1)NC=1SC=CN1 | C10H10N2OS
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | DMF | 13.2 mmol, 12.9 mL | CN(C)C=O | C3H7NO
product | (5-Bromo-thiazol-2-yl)-(4-methoxy-phenyl)-amine | BrC1=CN=C(S1)NC1=CC=C(C=C1)OC | C10H9BrN2OS
